US06407101B1
To a solution of 5′-bromo-spiro[cyclohexane-1,3′-indolin]-2′-one (3.4 g, 12 mmol) in 1,2-DME (100 mL) under a nitrogen atmosphere, was added tetrakis(triphenylphospine)palladium(0) (70 mg, 5 mol %). After 15 min, 2-borono-1H-pyrrole-1-carboxylic acid, 1-tert butyl ester (1.3 eq, 3.31 g, 15.6 mmol) and a solution of K2CO3 (2.3 eq, 3.83 g, 27.6 mmol) in water (5 mL) were added sequentially. The solution was heated to 80° C. for 3 h and allowed to cool. The reaction mixture was poured into water (200 mL) and extracted with EtOAc (2×100 mL). The organic layers were combined, washed with brine (150 mL) and dried over MgSO4. The solution was filtered, concentrated in vacuo, and the residue was purified by flash column chromatography on silica gel (eluting with 30% EtOAc/hexane) to give 2-(1′,2′-dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-1H-pyrrole-1-carboxylic acid, tert-butyl ester (3.4 g, 76%) as a white powder, mp 177° C. 1H NMR (CDCl3; 300 MHz) δ1.38 (s, 9 H), 1.59-1.93 (m, 10 H), 6.18 (m, 1 H), 6.23 (‘t’, 1H, 3 Hz), 6.91 (d, 1 H, J=8 Hz), 7.21 (d, 1 H, J=8 Hz), 7.34 (m, 1 H), 7.44 (s, 1 H), 8.33 (br s, 1 H, D2Oex). MS ((+)-APCI) m/z 367 [(M+H)+]. Anal. Calcd for C22H26N2O3: C, 72.11; H, 7.15; N, 7.64. Found: C, 71.7; H, 7.16; N, 7.5.

reactant | 5′-bromo-spiro[cyclohexane-1,3′-indolin]-2′-one | 12 mmol, 3.4 g | BrC=1C=C2C3(C(NC2=CC1)=O)CCCCC3 | C13H14BrNO
reactant | 2-borono-1H-pyrrole-1-carboxylic acid, 1-tert butyl ester | 15.6 mmol, 3.31 g, 1.3 eq | B(O)(O)C=1N(C=CC1)C(=O)OC(C)(C)C | C9H14BNO4
reactant | K2CO3 | 27.6 mmol, 3.83 g, 2.3 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 5 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 2-(1′,2′-dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-1H-pyrrole-1-carboxylic acid, tert-butyl ester | 3.4 g, 76% | O=C1NC2=CC=C(C=C2C12CCCCC2)C=2N(C=CC2)C(=O)OC(C)(C)C | C22H26N2O3
